US07572809B2
Similar procedure as described in example 9B was used, starting from 5-Bromo-2-cyanomethyl-4-methoxy-benzoic acid, 3-amino-5-methylpyrazol and acetic acid to give 7-Bromo-6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-ol. LC-MS: m/e 349 (MH+).

reactant | 5-Bromo-2-cyanomethyl-4-methoxy-benzoic acid | BrC=1C(=CC(=C(C(=O)O)C1)CC#N)OC | C10H8BrNO3
reactant | 3-amino-5-methylpyrazol | NC1=NNC(=C1)C | C4H7N3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-Bromo-6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-ol | BrC1=C(C=C2C=C(N=C(C2=C1)O)NC1=NNC(=C1)C)OC | C14H13BrN4O2
